US07371772B2
To a solution of ethyl 5-[[4′-(2-butoxyethoxy)-3-formyl [1,1′-biphenyl]-4-yl]oxy]pentanoate (6.00 g) in diethyl carbonate (60 ml) was added a solution of 20% sodium ethoxide in ethanol (5.55 g). The mixture was stirred at 50° C. for 2 hours under a nitrogen atmosphere. The solution was allowed to cool. Water was added and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated saline and dried over magnesium sulfate. After distilling off the solvent under reduced pressure, the residue was purified by silica gel column chromatography (hexane:ethyl acetate=5:1) to obtain yellowish oil of ethyl 8-[4-(2-butoxyethoxy)phenyl]-3,4-dihydro-2H-1-benzoxocin-4-carboxylate (527 mg).

reactant | ethyl 5-[[4′-(2-butoxyethoxy)-3-formyl [1,1′-biphenyl]-4-yl]oxy]pentanoate | 6.00 g | C(CCC)OCCOC1=CC=C(C=C1)C1=CC(=C(C=C1)OCCCCC(=O)OCC)C=O | C26H34O6
reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | Water | O | H2O
reactant | diethyl carbonate | 60 ml | C(OCC)(OCC)=O | C5H10O3
solvent | ethanol | 5.55 g | C(C)O | C2H6O
product | ethyl 8-[4-(2-butoxyethoxy)phenyl]-3,4-dihydro-2H-1-benzoxocin-4-carboxylate | 527 mg | C(CCC)OCCOC1=CC=C(C=C1)C=1C=CC2=C(C=CC(CCO2)C(=O)OCC)C1 | C26H32O5
